US04650810
(ii) 3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indole-5-acetamide
A mixture of the crude 2-(4-hydrazinophenyl)acetamide hydrochloride (16.19 g) (contains 0.05 mol) and 4-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)butanal diethyl acetal (14.5 g) was heated under reflux in 25% aqueous acetic acid (1 l) for 30 min. The cooled mixture was poured into ethyl acetate (750 ml) the organic phase was separated and the aqueous phase was washed with ethyl acetate (250 ml). The combined organic extracts were washed with water (500 ml), dried (Na2SO4) and evaporated under reduced pressure. Water (500 ml) was added to the oily residue which solidified on stirring. The solid was collected by filtration, washed with water and dried. Crystallisation from ethyl acetate-methanol gave the title compound as pale yellow granules (11.9 g) m.p. 191°-3° C.

reactant | 2-(4-hydrazinophenyl)acetamide hydrochloride | 0.05 mol, 16.19 g | Cl.N(N)C1=CC=C(C=C1)CC(=O)N
reactant | 4-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)butanal diethyl acetal | 14.5 g | C(C)OC(CCCN1C(C2=CC=CC=C2C1=O)=O)OCC | C16H21NO4
reactant | ethyl acetate | 750 ml | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 1 l | C(C)(=O)O | C2H4O2
product | 3-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-1H-indole-5-acetamide | O=C1N(C(C2=CC=CC=C12)=O)CCC1=CNC2=CC=C(C=C12)CC(=O)N | C20H17N3O3
